US07291744B2
Step f: Preparation of N-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)urea
A mixture of N-{[(1S,2R)-2-aminocyclohexyl]methyl}-(2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-amine (60 mg, 217 μmol) and phenyl[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]carbamate (54 mg, 217 μmol) in acetonitrile (2 mL) was treated with triethylamine (75 μL, 540 μmol). After being stirred at room temperature for 18 hours, the mixture was concentrated under vacuum. The residue was purified by flash column chromatography, eluting with 5% methanol in dichloromethane containing 0.5% aqueous ammonia, to provide an amorphous solid (50 mg, 45%).

reactant | N-{[(1S,2R)-2-aminocyclohexyl]methyl}-(2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-amine | 217 μmol, 60 mg | N[C@H]1[C@@H](CCCC1)CNC1CC2=CC=C(C=C2CC1)F | C17H25FN2
reactant | phenyl[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]carbamate | 217 μmol, 54 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=NN=NN1C)CC)=O | C17H17N5O2
reactant | triethylamine | 540 μmol, 75 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)urea | 50 mg, 45% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)N[C@H]1[C@@H](CCCC1)CNC1CC2=CC=C(C=C2CC1)F | C28H36FN7O
